US04739123
In a four necked 1 liter flask equipped with a thermometer, a condenser and a stirrer, 1-chloromethoxy-1,1-difluoro-2-trifluoromethyl-3,3,3-trifluoropropane (276.6 g, 1.04 mol), silicon dioxide and fluorosulfuric acid (70.0 g, 0.70 mol) were charged. The reaction was continued at 110° C. for 21 hours. Then, the reaction mixture was distilled to give monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate (190.3 g).

reactant | 1-chloromethoxy-1,1-difluoro-2-trifluoromethyl-3,3,3-trifluoropropane | 1.04 mol, 276.6 g | ClCOC(C(C(F)(F)F)C(F)(F)F)(F)F | C5H3ClF8O
reactant | silicon dioxide | [Si](=O)=O | O2Si
reactant | fluorosulfuric acid | 0.70 mol, 70.0 g | S(O)(=O)(=O)F | FHO3S
product | monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate | 190.3 g | FC(C(C(=O)OCCl)C(F)(F)F)(F)F | C5H3ClF6O2
